US08357693B2
A mixture of tert-butyl 5-(2-(3-hydroxyphenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate (0.800 g, 1.76 mmol), tert-butyl 2-bromoacetate (130 μL, 0.88 mmol) and K2CO3 (0.972 g, 7.04 mmol) in DMF (35 mL) was heated at 80° C. for 2 h. Upon which additional tert-butyl 2-bromoacetate (130 μL, 0.88 mmol) was added, heating at 80° C. was continued for a further 1.5 h. The mixture was allowed to cool to RT and concentrated in vacuo. Diluted with CH2Cl2 and extracted with water (3×). Dried under Na2SO4 and concentrated in vacuo to give tert-Butyl 5-(2-(3-(2-tert-butoxy-2-oxoethoxy)phenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate. (0.950 g, 1.68 mmol, 95%).

reactant | tert-butyl 5-(2-(3-hydroxyphenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate | 1.76 mmol, 0.800 g | OC=1C=C(C=CC1)C1=NC2=CC=CC=C2C(=N1)NC=1C=C2C=NN(C2=CC1)C(=O)OC(C)(C)C | C26H23N5O3
reactant | tert-butyl 2-bromoacetate | 0.88 mmol, 130 μL | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | K2CO3 | 7.04 mmol, 0.972 g | C(=O)([O-])[O-].[K+].[K+]
reactant | tert-butyl 2-bromoacetate | 0.88 mmol, 130 μL | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | DMF | 35 mL | CN(C)C=O | C3H7NO
product | tert-Butyl 5-(2-(3-(2-tert-butoxy-2-oxoethoxy)phenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate | C(C)(C)(C)OC(COC=1C=C(C=CC1)C1=NC2=CC=CC=C2C(=N1)NC=1C=C2C=NN(C2=CC1)C(=O)OC(C)(C)C)=O | C32H33N5O5
